US04255328
302 mg (2 mmols) of 1,5-diazabicyclo[5.4.0]undec-5-ene are added to a solution of 534 mg (1 mmol) of a mixture consisting of 2-[4-(p-toluenesulphonylthio)-3-phenoxyacetamido-2-oxoazetidin-1-yl]-3-methoxy-isocrotonic acid methyl ester and 2-[4-(p-toluenesulphonylthio)-3-phenoxyacetamido-2-oxoacetidin-1-yl]-3-methoxy-crotonic acid methyl ester in the ratio of about 4:1, in 20 ml of tetrahydrofurane, whilst stirring. The mixture is then stirred for 40 minutes, diluted with 70 ml of methylene chloride and washed successively with dilute hydrochloric acid, with water, with dilute aqueous sodium bicarbonate solution and again with water. The organic phase is dried over sodium sulphate and concentrated by evaporation in vacuo. The residue is chromatographed on 15 g of acid-washed silica gel using toluene/ethyl acetate, 2:1 followed by 1:1, resulting in the elution of, first, pure 7β-phenoxyacetamido-3-methoxy-ceph-2-em-4α-carboxylic acid methyl ester, IR spectrum (in methylene chloride): characteristic bands at 5.60, 5.70, 5.90 and 8.25μ, followed by pure 7β-phenoxyacetamido-3-methoxy-ceph-3-em-4-carboxylic acid methyl ester, IR spectrum (in methylene chloride): characteristic bands at 5.60, 5.85, 5.90 and 7.10μ, in the form of colourless foams.

reactant | 1,5-diazabicyclo[5.4.0]undec-5-ene | 2 mmols, 302 mg | N12CCCN=CC2CCCC1 | C9H16N2
reactant | 2-[4-(p-toluenesulphonylthio)-3-phenoxyacetamido-2-oxoazetidin-1-yl]-3-methoxy-isocrotonic acid methyl ester | COC(\C(=C(/C)\OC)\N1C(C(C1SS(=O)(=O)C1=CC=C(C=C1)C)NC(COC1=CC=CC=C1)=O)=O)=O | C24H26N2O8S2
solvent | tetrahydrofurane | 20 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
product | 7β-phenoxyacetamido-3-methoxy-ceph-2-em-4α-carboxylic acid methyl ester | COC(=O)[C@H]1C(=CS[C@H]2N1C([C@H]2NC(COC2=CC=CC=C2)=O)=O)OC | C17H18N2O6S
